US05025036
To 1.80 g of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3-propylbenzoic acid in 125 mL of methylene chloride cooled at -70° was added 14 mL of 1M boron tribromide in methylene chloride. After 30 minutes at -70° and 5 hours at -20°, the reaction was worked up as in Example 32 and the product was recrystallized from ether-hexane to give 1.12 g, mp 123°-124° of 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-3-propylbenzoic acid.

reactant | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-3-propylbenzoic acid | 1.80 g | COC1=C(C=CC=C1OC)CCCCCCOC1=C(C=C(C(=O)O)C=C1)CCC | C24H32O5
reactant | boron tribromide | 1M, 14 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | 4-[6-(2,3-dihydroxyphenyl)hexyloxy]-3-propylbenzoic acid | 1.12 g | OC1=C(C=CC=C1O)CCCCCCOC1=C(C=C(C(=O)O)C=C1)CCC | C22H28O5
